US04127660
6-p-Bromophenyl-6-hydroxy-3-methyl-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazine
A solution of 6.95 grams (0.025 moles) of p-bromophenacylbromide in 60 milliliters of acetone was mixed with a solution of 3.27 grams (0.025 moles) of 3,4,5,6-tetrahydro-5-methyl-s-triazin 2(1H) thione in 450 milliliters of acetone. 6-p-Bromophenyl-6-hydroxy-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a-]-s-triazine hydrobromide crystallized out as a colourless solid, m.p. 138°-140° C. (decomposition). The yield was 7.5 grams (75%).

reactant | p-bromophenacylbromide | 0.025 moles, 6.95 grams | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | 3,4,5,6-tetrahydro-5-methyl-s-triazin 2(1H) thione | 0.025 moles, 3.27 grams | CN1CNC(NC1)=S | C4H9N3S
solvent | acetone | 60 milliliters | CC(=O)C | C3H6O
solvent | acetone | 450 milliliters | CC(=O)C | C3H6O
product | 6-p-Bromophenyl-6-hydroxy-3-methyl-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazine | BrC1=CC=C(C=C1)C1(CSC=2N1CN(CN2)C)O | C12H14BrN3OS
